US07605171B2
Step C: 5-(3-Cyano-4-fluorophenyl)-2-(4-bromo-2-methylphenyl)thiophene
The title compound was prepared using a procedure analogous to that described in EXAMPLE 127, Step A substituting 5-bromo-2-(4-bromo-2-methylphenyl)thiophene (from Step B) for 4-bromo-2-methyliodobenzene and 3-cyano-4-fluorophenylzincbromide for 2-thienylzinc bromide: 1H NMR (CDCl3) 7.85 (m, 2H), 7.47 (d, J=2.0, 1H), 7.40 (dd, J=2.0, 9.0, 1H), 7.29 (m, 3H), 7.07 (d, J=6.5, 1H), 2.47 (s, 3H). HPLC A 4.20 min.

reactant | 4-bromo-2-methyliodobenzene | BrC1=CC(=C(C=C1)I)C | C7H6BrI
reactant | 3-cyano-4-fluorophenylzincbromide | [Br-].C(#N)C=1C=C(C=CC1F)[Zn+]
reactant | 2-thienylzinc bromide | [Br-].S1C(=CC=C1)[Zn+]
product | 5-(3-Cyano-4-fluorophenyl)-2-(4-bromo-2-methylphenyl)thiophene | C(#N)C=1C=C(C=CC1F)C1=CC=C(S1)C1=C(C=C(C=C1)Br)C | C18H11BrFNS
